US06645968B2
N-(4-methylbenzoyl)valine
Racemic valine and p-toluoyl chloride were processed as described in Example 26A to provide the desired product.

reactant | Racemic valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | p-toluoyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
product | N-(4-methylbenzoyl)valine | CC1=CC=C(C(=O)N[C@@H](C(C)C)C(=O)O)C=C1 | C13H17NO3
